Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:2]#[C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])[H:13].[H:1]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])[H:13],-5.97760192393
[C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]=[C:9]([H:10])[H:11].[O:1]>>[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]=[C:9]([H:10])[H:11],-7.788146172439999
[C:10]([H:11])[H:12].[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7][O:8][H:9]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([O:8][H:9])=[C:10]([H:11])[H:12],-7.32075377355
[C:1]#[C:2][H:3].[O:4]=[C:5]([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[C:1]=[C:2]([H:3])[O:4][C:5]([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],0.35974954399000003
[H:12].[O:1]=[C:2]([C:3][H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])[H:11]>>[O:1]=[C:2]([C:3][H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12],-4.62575127481
[C:1]=[C:2]([H:3])[C:4]([H:5])[O:6][C:7]([H:8])([H:9])[H:10]>>[C:1]#[C:2][H:3].[C:4]([H:5])[O:6][C:7]([H:8])([H:9])[H:10],3.65836545121
[C:6]([H:7])([H:8])[H:9].[H:1][O:2]/[C:3]([H:4])=[C:5]/[C:10]([H:11])([H:12])[C:13]([H:14])[H:15]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15],-4.522909419019999
[H:1][C:2]=[C:3]([H:4])[C@@:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[H:12]>>[C:9]([H:10])([H:11])[H:12].[H:1][C:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][H:8],3.21328436466
[C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:1][O:2]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-5.39929086206
[H:1][O:2][C@:3]([H:4])([C:5]([H:6])=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[C:5]([H:6])=[C:7]([H:8])[H:9].[H:1][O:2][C:3]([H:4])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],4.24112648199
[C:1]#[C:2][C:4]([H:5])([H:6])[C:7][C:8]#[C:9][H:10].[H:3]>>[C:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7][C:8]#[C:9][H:10],-3.97668747171
[H:1][C:2][O:3][C:4]#[C:5][O:6][C:7][H:8]>>[C:2][O:3][C:4]#[C:5][O:6][C:7][H:8].[H:1],3.57692014809
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14]>>[H:14].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])[H:13],4.29922003628
[H:6].[O:1]=[C:2]([H:3])[O:4][C:5]#[C:7][H:8]>>[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])=[C:7][H:8],-2.35119283105
[H:10].[H:1][C:2]([H:3])([H:4])[C:5][O:6][C:7]([H:8])[H:9]>>[H:1][C:2]([H:3])([H:4])[C:5][O:6][C:7]([H:8])([H:9])[H:10],-4.39422137809
[H:1][C:2][O:3][C@@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][C:2].[O:3][C@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],6.27854565263
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11]>>[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11].[H:1][C:2]#[C:3][H:4],1.36971520902
[H:11].[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]=[C:12]([H:13])[H:14]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14],-4.76589139825
[O:1]=[C:2]([C:3]#[C:4][H:5])[C:6]([H:7])([H:8])[H:9]>>[C:3]#[C:4][H:5].[O:1]=[C:2][C:6]([H:7])([H:8])[H:9],5.14842981876
[H:1][C:2]=[C:3]([H:4])[C:6]([H:7])([H:8])[C:9][C:10]([H:11])([H:12])[H:13].[H:5]>>[H:1][C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9][C:10]([H:11])([H:12])[H:13],-1.37928240146
[H:1][C:2]([H:3])[O:4][C@:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17]>>[H:17].[H:1][C:2]([H:3])[O:4][C@:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])[H:16],4.56213611579
[H:1][O:2][C:3]([H:4])([H:5])/[C:6]=[C:7](\[H:8])[O:9][C:10]([H:11])[H:12]>>[H:12].[H:1][O:2][C:3]([H:4])([H:5])/[C:6]=[C:7](\[H:8])[O:9][C:10][H:11],3.4860683548400004
[H:1][C:2]([H:3])[O:4]/[C:5]([H:6])=[C:7]/[C:8]([H:9])([H:10])[C:11]([H:12])[H:13]>>[C:5]([H:6])#[C:7][C:8]([H:9])([H:10])[C:11]([H:12])[H:13].[H:1][C:2]([H:3])=[O:4],-2.37719836273
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[C:11]([H:12])([H:13])[H:14].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])[H:10],3.95818717437
[C:1]=[O:2].[C:3]([H:4])=[C:5]([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[C:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],1.10081575566
[H:1][O:2]/[C:3]([H:4])=[C:5]([H:6])/[C:7]([H:8])=[C:9](\[H:10])[O:11][H:12]>>[C:7]([H:8])=[C:9]([H:10])[O:11][H:12].[H:1][O:2][C:3]([H:4])=[C:5][H:6],5.38641137594
[H:1][C:2]([O:3][C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])=[C:13]([H:14])[H:15]>>[C:4]([H:5])([H:6])[H:7].[H:1][C:2](=[O:3])[C:8]([H:9])([H:10])[C:11]([H:12])=[C:13]([H:14])[H:15],0.586706607749
[H:1][O:2][C:3][O:4][C:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1].[O:2]=[C:3][O:4][C:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],2.56041776791
[C:1]#[C:2][C:3]([C:4][O:5][H:6])[O:7][H:8]>>[C:1]#[C:2][C:4][O:5][H:6].[C:3][O:7][H:8],3.45012647335
